Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
ERCP on ___
 
History of Present Illness:
___ is a ___ year old man with no significant PMHx who 
presents as a transfer from ___ for evaluation and 
treatment of choledocholithiasis. The patient reports that he 
developed epigastric pain yesterday after eating breakfast. He 
reports that he tried to take tums for indigestion but that it 
did not help and symptoms worsened. He reports that he had 
epigastric pain that became a ___ and was sharp. Pain is 
currently ___. He reports having chills and decreased appetite. 
Given his symptoms, he presented to ___. 

At ___ he was evaluated and he was noted to have a 
T bili of 6.3, AST of 520 and ALT of 503. He had an RUQ 
ultrasound that showed a 18 mm CBD stone. Received Zofran and 
Dilaudid prior to transfer. He was transferred to ___ for 
further evaluation and treatment. 

In the ___ ED ERCP team was consulted. He was hemodynamically 
stable and the plan was made to undergo an ERCP on ___ in 
the morning.

On arrival to the floor the patient reports that he continues to 
have abdominal pain ___, sharp but that it is improved over 
initial presentation. He denies fever, nausea, vomiting, 
diarrhea, constipation, melena, brbpr, CP, SOB. 

ROS: A 10 point ROS was conducted and was negative except as 
noted in the HPI. 

 
Past Medical History:
PMHx: enlarged prostate, otherwise negative.
PSHx: hx of varicose vein surgery ___ years ago, hx of cataract 
surgery ___ years ago
 
Social History:
___
Family History:
mom died at ___
father died at ___ from leukemia
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN: NAD, sitting upright in bed
vitals: T 97.9 BP 150/90 HR 90 RR 18 sat 98% on RA
HEENT: MMM, EOMI, Oropharynx clear
NECK: Supple
CV: RRR
RESP: CTAB
ABD: +BS, Soft, tender to palpation in the epigastric and RUQ, 
no guarding or rebound
GU: No foley
SKIN: warm and dry
EXT: no ___ pitting edema
NEURO: Speech fluent
PSYCH: normal affect

DISCHARGE PHYSICAL EXAM:
GEN: NAD, sitting upright in bed
vitals: T 98.2 BP 143/78 HR 71 RR 18 sat 96% on RA
HEENT: MMM, EOMI, Oropharynx clear
NECK: Supple
CV: RRR
RESP: CTAB
ABD: +BS, soft, nontender throughout, no guarding or rebound
SKIN: warm and dry
EXT: no ___ pitting edema
NEURO: Speech fluent
PSYCH: normal affect
 
Pertinent Results:
___ Results:
***OSH labs/reports taken at 1336:*** 
US report: "CBD measures up to 19mm. There is an 18mm shadowing 
stone at the distal CBD and a second 12mm stone at the distal 
CBD"
.
Impression: " 1. distal CBD stones and associated obstructive 
biliary pathology. Gallbladder sludge".

WBC 11.8 with 12% bands
Hgb 15.3
Hct 45
Plt 200

Na 136
K 4.2
Cl 100
HCO3 28
Glu 139
BUN 21
Cr 1.09
Ca 9.3

T bili 6.3
D bili 4.9
Indirect 1.4
Alk phos 131
T prot 7.7
Alb 3.8
Ast 520
Alt 503
Trop negative

Lipase 70

INR 1.1
___ 11.0

DISCHARGE LABS

___:
WBC-7.0 RBC-3.72* Hgb-11.6* Hct-34.8* Plt ___
MCV-94 MCH-31.2 MCHC-33.3 RDW-14.0 RDWSD-47.5*
 
Glucose-70 UreaN-18 Creat-0.8 Na-140 K-3.5 Cl-104 HCO3-28 
AnGap-12
Calcium-9.1 Phos-1.6* Mg-2.0

ALT-143* AST-83* AlkPhos-72 TotBili-1.___ year old man with no significant PMHx who presents as a 
transfer from ___ for evaluation and treatment of 
choledocholithiasis.

# Choledocholithiasis with obstruction and epigastric abdominal 
pain: Patient with an 18mm stone in the distal CBD. 
Hemodynamically stable. No fevers or signs of infection at this 
time.
- ERCP on ___ w/ sphincterotomy and dilatation w/o stenting
- pain free following ERCP
- given 1 dose of vitamin K post-procedure for elevated INR (1.4 
prior to ERCP)
- Surgery consulted re: cholecystectomy. Patient deferred, wants 
to speak with PCP prior to making decision.
- post-op was NPO overnight, then adv. diet, well tolerated
- LFTs improving on AM labs
- No evidence of pancreatitis or GI bleeding prior to discharge
- Discharged in good condition
- Instructed to hold ASA for 5 days post-ERCP and f/u with PCP 
___ 5 days to discuss plans for cholecystectomy.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. AndroGel (testosterone) 1 % (25 mg/2.5gram) transdermal few 
times a week 

 
Discharge Medications:
1. AndroGel (testosterone) 1 % (25 mg/2.5gram) transdermal few 
times a week 
2. Aspirin 81 mg PO daily - DO NOT TAKE FOR 4 MORE DAYS.  Can 
resume on ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis with obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Eyes: anicteric
Chest: CTAB
Cards: RR, no m/r/g
Abd: soft, NT, ND, BS+
Ext: no edema, lesions, rashes

 
Discharge Instructions:
You were admitted for choledocholithiasis, which means 
gallstones obstructing the biliary ducts.  You were treated with 
removal of the stones by ERCP.  You were evaluated by the 
surgery service, who recommended that you pursue cholecystectomy 
(surgical removal of your gallbladder) to prevent from having 
similar episodes in the future.  You indicated that you wanted 
to talk to your PCP prior to making that decision.  You should 
follow up with your primary care physician ___ 5 days of 
discharge to address this issue.
*Do not take aspirin or other anticoagulant medications for the 
next 4 days.  You can resume taking your daily aspirin on 
___.
 
Followup Instructions:
___